US05846703
A. Preparation of Theophylline 8-Butyric Acid
A mixture of 31.3 g glutaric anhydride, 25 g 5.6-diamino-1,3-dimethyl uracil, and 300 ml N,N-dimethyl-aniline was heated under reflux for 4 hours. Upon cooling, the product crystallized from the dark, clear reaction mixture. The crystals were collected by filtration, washed with benzene, then with methanol, and dried affording 187 g light yellow solid.

reactant | glutaric anhydride | 31.3 g | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 5.6-diamino-1,3-dimethyl uracil | 25 g | NC=1C(N(C(N(C1N)C)=O)C)=O | C6H10N4O2
solvent | N,N-dimethyl-aniline | 300 ml | CN(C1=CC=CC=C1)C | C8H11N
product | Theophylline 8-Butyric Acid | N1(C)C(=O)N(C)C=2N=C(NC2C1=O)CCCC(=O)O | C11H14N4O4
